US06248771B1
2,4-Diamino-5-(4-benzyloxyphenoxy)quinazoline (3.6 g, 10 mmol) was hydrogenated under 4 atm of H2 in the presence of 0.36 g of 10% Pd/C in 80 ml of N,N-dimethylacetamide at 50-60° C. After 4 hours the reaction mixture was filtered through a glass filter of silica gel, concentrated, dissolved in 50 ml of 2-propanol and crystallized at 4° C. The precipitate was collected by filtration, washed with 2-propanol and dried at 50° C. in vacuo to give 2,4-diamino-5-(4-hydroxyphenoxy)quinazoline (2.3 g, 85.2%, m.p. 330-341° C. (dec)).

reactant | 2,4-Diamino-5-(4-benzyloxyphenoxy)quinazoline | 10 mmol, 3.6 g | NC1=NC2=CC=CC(=C2C(=N1)N)OC1=CC=C(C=C1)OCC1=CC=CC=C1 | C21H18N4O2
solvent | N,N-dimethylacetamide | 80 ml | CN(C(C)=O)C | C4H9NO
catalyst | Pd/C | 0.36 g | [Pd] | Pd
product | 2,4-diamino-5-(4-hydroxyphenoxy)quinazoline | 2.3 g, 85.2% | NC1=NC2=CC=CC(=C2C(=N1)N)OC1=CC=C(C=C1)O | C14H12N4O2
